US07618959B2
c) 3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde
A stirred solution of 6-hydroxymethyl-4H-benzo[1,4]thiazin-3-one (3.5 g) in chloroform (150 mL) and tetrahydrofuran (300 mL) was treated with manganese dioxide (7.8 g) for 18 hours and was filtered and evaporated to give a white solid (2.5 g).

reactant | 6-hydroxymethyl-4H-benzo[1,4]thiazin-3-one | 3.5 g | OCC=1C=CC2=C(NC(CS2)=O)C1 | C9H9NO2S
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 7.8 g | [O-2].[O-2].[Mn+4]
product | 3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde | 2.5 g | O=C1CSC2=C(N1)C=C(C=C2)C=O | C9H7NO2S
